US08957070B2
N-(2-Oxo-2,3-dihydro-1H-indol-7-yl)thiophene-2-sulfonamide
To a mixture of 7-amino-2-oxo-2,3-dihydro-1H-indole (1.53 g) and pyridine (20 mL) was added thiophene-2-sulfonyl chloride (2.26 g) at 0° C., and the mixture was stirred at room temperature for 2 hr. The reaction mixture was concentrated, 10% aqueous citric acid solution was added, and the resulting crystals were filtrated, washed with water and dried. The obtained crystals were subjected to silica gel column chromatography, and eluted with ethyl acetate. The eluate was treated with activated carbon and concentrated to give the title compound (2.93 g, yield 97%) as colorless crystals. The crystals were recrystallized from tetrahydrofuran-hexane. melting point>230° C. (decomposition)

reactant | 7-amino-2-oxo-2,3-dihydro-1H-indole | 1.53 g | NC=1C=CC=C2CC(NC12)=O | C8H8N2O
reactant | thiophene-2-sulfonyl chloride | 2.26 g | S1C(=CC=C1)S(=O)(=O)Cl | C4H3ClO2S2
solvent | pyridine | 20 mL | N1=CC=CC=C1 | C5H5N
product | N-(2-Oxo-2,3-dihydro-1H-indol-7-yl)thiophene-2-sulfonamide | 2.93 g, yield 97% | O=C1NC2=C(C=CC=C2C1)NS(=O)(=O)C=1SC=CC1 | C12H10N2O3S2
